US07342039B2
To a solution of 3-bromo-4-hydroxy-benzoic acid methyl ester (4.50 g, 19.5 mmol) and 4-trifluoromethylbenzene boronic acid (4.07 g, 21.4 mmol) in dioxane (75 mL) was added 2 M potassium bicarbonate solution (29.2 mL, 58.4 mmol) and a second portion of dioxane (75 mL, 150 mL total volume added). This mixture was then degassed by bubbling dry nitrogen through the mixture for 5 minutes. After degassing, [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium (II), complex 1:1 with dichloromethane (DPPF; 0.40 g, 0.49 mmol) was added and the reaction mixture was stirred at ambient temperature for 1 hour. The mixture was then heated to reflux for 5 hours, allowed to cool back to ambient temperature for 14 hours and then refluxed for an additional 5 hours. After cooling back to ambient temperature, the mixture was partitioned between 1 M hydrochloric acid (100 mL) and ethyl acetate. The layers were separated and the aqueous layer was adjusted to pH 3. The aqueous layer was extracted with two additional portions of ethyl acetate. The organics were combined, dried over anhydrous magnesium sulfate, filtered through Celite and concentrated under reduced pressure. The crude material was purified by flash chromatography through silica gel using diethyl ether/hexanes (0/100 gradient to 20/80) to give 6-hydroxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (3.40 g, 76%) as a white powder. 1H NMR (400 MHz, DMSO-d6); δ 10.76 (s, 1H), 7.87 (s, 1H), 7.84 (d, 1H), 7.76 (s, 4H), 7.06 (d, 1H), 3.79 (s, 3H).

reactant | 3-bromo-4-hydroxy-benzoic acid methyl ester | 19.5 mmol, 4.50 g | COC(C1=CC(=C(C=C1)O)Br)=O | C8H7BrO3
reactant | 4-trifluoromethylbenzene boronic acid | 21.4 mmol, 4.07 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium bicarbonate | 58.4 mmol, 2 M, 29.2 mL | C([O-])(O)=O.[K+]
reactant | dichloromethane | 0.49 mmol, 0.40 g | ClCCl | CH2Cl2
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium (II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 6-hydroxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 3.40 g, 76% | COC(=O)C=1C=C(C(=CC1)O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3O3
